US07129268B2
{4-[3,3-Bis-(3-trifluoromethyl-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid
{4-[3,3-Bis-(3-trifluoromethyl-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid methyl ester (100 mg, 0.23 mmol) was dissolved in ethanol (10 ml).1N NaOH (3 ml, 3 mmol) was added at room temperature and the reaction mixture was stirred for 18 h at 5° C. after which it was treated with 1N HCl (3 ml) and extracted with dichloromethane (2×20 ml). The combined organic phases were dried and evapotated to give the title compound in 20 mg (5%) yield.

reactant | {4-[3,3-Bis-(3-trifluoromethyl-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid methyl ester | 0.23 mmol, 100 mg | COC(COC1=C(C=C(C=C1)SCC=C(C1=CC(=CC=C1)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C)=O | C27H22F6O3S
reactant | ethanol | 3 mmol, .1N, 10 ml | C(C)O | C2H6O
reactant | HCl | 1N, 3 ml | Cl | ClH
product | {4-[3,3-Bis-(3-trifluoromethyl-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid | FC(C=1C=C(C=CC1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC(=CC=C1)C(F)(F)F)(F)F | C26H20F6O3S
